US06326386B1
3-Chloro-N-isopropyl-N-(2-methoxy-ethyl)-5-[2-(pyridin-4-ylamino)-ethoxy]-benzamide
A solution of {2-[3-chloro-5-(isopropyl-2-methoxy-ethyl-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester (Intermediate SS8) (0.056 g) and trifluoroacetic acid (0.6 ml) in dichloromethane (0.6 ml) was stirred at room temperature for 1 h then concentrated under vacuum. The residue was purified by flash chromatography eluting with dichloromethane:methanol:ammonia (94:6:1 then 92:8:1 v/v/v), to give the title compound as a colourless gum (0.036 g).

reactant | {2-[3-chloro-5-(isopropyl-2-methoxy-ethyl-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 0.056 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CCOC)C(C)C)=O)Cl)=O | C25H34ClN3O5
reactant | trifluoroacetic acid | 0.6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.6 ml | ClCCl | CH2Cl2
product | 3-Chloro-N-isopropyl-N-(2-methoxy-ethyl)-5-[2-(pyridin-4-ylamino)-ethoxy]-benzamide | 0.036 g | ClC=1C=C(C(=O)N(CCOC)C(C)C)C=C(C1)OCCNC1=CC=NC=C1 | C20H26ClN3O3
